US04962230
In a 100 ml autoclave, the inside atmosphere of which had previously been replaced with argon, were placed 0.32 g (2 mmoles) of (Z)-3-methylcinnamic acid and 20 ml of methanol. Then, 2.9 mg (0.0034 mmole) of Ru((+)BINAP)-(O2CCH3)2 prepared according to the same manner as in Referential Example 3 except using (+)-BINAP in place of (-)-BINAP was added to the mixture to perform hydrogenation for 70 hours at a hydrogen pressure of 104 kg/cm2 and at a reaction temperature of 25° C. Thereafter, the solvent was distilled off to provide 0.32 g of 3-phenylbutyric acid. The yield was 100%.

reactant | (Z)-3-methylcinnamic acid | 2 mmoles, 0.32 g | CC=1C=C(\C=C/C(=O)O)C=CC1 | C10H10O2
reactant | (+)-BINAP | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=C(C4=CC=CC=C4C=C3)C5=C(C=CC6=CC=CC=C65)P(C7=CC=CC=C7)C8=CC=CC=C8 | C44H32P2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 20 ml | CO | CH4O
product | 3-phenylbutyric acid | 0.32 g, yield was 100% | C1(=CC=CC=C1)C(CC(=O)O)C | C10H12O2
